US20010006969A1
2-Chloro-6-nitro-4-pentylaminoquinazoline
To 400 mg (1.93 mmol) of 6-nitroquinazoline-2,4 (1H,3H)-dione were added 1 ml of 1,3-dimethyl-2-imidazolidinone and 6.58 g (42.91 mmol) of phosphorus oxychloride, and the resulting mixture was subjected to heating under reflux for 3 hours. After phosphorus oxychloride was removed in vacuo, the mixture was dissolved in 4 ml of acetonitrile, followed by addition of 5.60 ml (48.25 mmol) of propylamine and stirring under ice cooling for 30 minutes. To the reaction solution was added water, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 342 mg (yield: 70.1%) of the title compound.

reactant | 6-nitroquinazoline-2,4 (1H,3H)-dione | 1.93 mmol, 400 mg | [N+](=O)([O-])C=1C=C2C(NC(NC2=CC1)=O)=O | C8H5N3O4
reactant | 1,3-dimethyl-2-imidazolidinone | 1 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | phosphorus oxychloride | 42.91 mmol, 6.58 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | propylamine | 48.25 mmol, 5.60 ml | C(CC)N | C3H9N
solvent | water | O | H2O
product | 2-Chloro-6-nitro-4-pentylaminoquinazoline | 342 mg, yield: 70.1% | ClC1=NC2=CC=C(C=C2C(=N1)NCCCCC)[N+](=O)[O-] | C13H15ClN4O2
